US07186749B2
Step 3: {[6-(1,5-Diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetonitrile.
In a similar manner as described in step 6 of Example 1, the title compound was prepared from 6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthol (0.200 g, 0.553 mmol), bromoacetonitrile (0.0796 g, 0.664 mmol) and cesium carbonate (0.900 g, 2.77 mmol) with the exception that the product was extracted with two portions each of methylene chloride and EtOAc. Purification on a Biotage Horizon™ system with a KP-Sil Flash 40+M column (100 g Silica Gel, 60 Å) using 55% to 95% methylene chloride in hexane as the eluent gave {[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetonitrile as a white solid (0.170 g, 77%), mp 229–230° C. Elemental Analysis for C28H20N2O.0.05 CH2Cl2 Calc'd: C, 83.24; H, 5.01; N, 6.92. Found: C, 83.12; H, 4.77; N, 6.89.

reactant | 6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthol | 0.553 mmol, 0.200 g | C1(=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)O | C26H19NO
reactant | bromoacetonitrile | 0.664 mmol, 0.0796 g | BrCC#N | C2H2BrN
reactant | cesium carbonate | 2.77 mmol, 0.900 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | {[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetonitrile | 0.170 g, 77% | C1(=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OCC#N | C28H20N2O
